US04245088
In water (4 ml) was dissolved 7β-(2-thienylacetamido)-3-mandelyloxymethyl-3-cephem-4-carboxylic acid (0.49 g) together with 5-mercapto-1-methyl-1H-tetrazole (0.12 g) and sodium hydrogen carbonate (0.17 g). The solution was stirred at 60° C. for 30 minutes. After the reaction had been completed, the reaction mixture was treated by a procedure similar to that described in Example 85. The procedure provided 7β-(2-thienylacetamido)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (0.40 g).

reactant | 7β-(2-thienylacetamido)-3-mandelyloxymethyl-3-cephem-4-carboxylic acid | 0.49 g | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C(O)C2=CC=CC=C2)=O)C(=O)O)C1=O | C22H20N2O7S2
reactant | 5-mercapto-1-methyl-1H-tetrazole | 0.12 g | SC1=NN=NN1C | C2H4N4S
reactant | sodium hydrogen carbonate | 0.17 g | C(O)([O-])=O.[Na+]
solvent | water | 4 ml | O | H2O
product | 7β-(2-thienylacetamido)-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.40 g | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C16H16N6O4S3
